US07101891B2
3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester
Add DMAP (5 mg, cat.) and mesyl chloride (0.2 mL, 2.5 mmol) to a solution of 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (0.95 g, 2.1 mmol) in pyridine (10 mL). Stir overnight at room temperature then concentrate to dryness. Partition between EtOAc, and water. Extract 2× with EtOAc. Wash the combined organics 3× with brine, dry over Na2SO4, filter and concentrate to dryness to afford the title compound (0.87 g, 79%) as a white solid as a mixture of cis isomers. MS(IS) 526.0 (M+); TLC (50% EtOAc/hexanes) Rf=0.65.

reactant | mesyl chloride | 2.5 mmol, 0.2 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 2.1 mmol, 0.95 g | C(C)(C)(C)OC(=O)N1CC(CC(C1)CO)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C22H26ClN3O5
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.87 g, 79% | C(C)(C)(C)OC(=O)N1CC(CC(C1)COS(=O)(=O)C)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C23H28ClN3O7S
